US04138397
α-Hydroxy(2,3-dihydro-5-benzofuranyl)acetic acid
α-Amino(2,3-dihydro-5-benzofuranyl)acetic acid (200 mg, 1.04 mmole) is dissolved in 250 mg (4.14 mmole) of glacial acetic acid and 145 mg (2.08 mmole) of sodium nitrite in about 5 ml of water is added dropwise. An additional 1 ml of glacial acetic acid is added and the mixture is heated to 65° C. and held at 65° C. for 4 hours. After cooling the reaction mixture is diluted with water and extracted with ethyl acetate for several hours. The ethyl acetate is dried over magnesium sulfate, filtered and evaporated to give about 65% of the title compound.

reactant | α-Amino(2,3-dihydro-5-benzofuranyl)acetic acid | 1.04 mmole, 200 mg | NC(C(=O)O)C=1C=CC2=C(CCO2)C1 | C10H11NO3
reactant | acetic acid | 4.14 mmole, 250 mg | C(C)(=O)O | C2H4O2
reactant | sodium nitrite | 2.08 mmole, 145 mg | N(=O)[O-].[Na+]
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | water | about 5 ml | O | H2O
product | α-Hydroxy(2,3-dihydro-5-benzofuranyl)acetic acid | about 65% | OC(C(=O)O)C=1C=CC2=C(CCO2)C1 | C10H10O4
